US05830915
Methylphenylphosphinic chloride (12.23 g, 70 mmol) is taken up in dichloromethane (100 mL) and cooled to 0° C. To this is added a solution of N-(3-picolyl) D-leucine methyl ester (15.5 g, 65.6 mmol) and N-methyl morpholine (19.24 mL, 175 mmol) in dichloromethane (100 mL). A catalytic amount of 4-dimethylaminopyridine is added and the reaction stirs for 16 hours at room temperature. More methylphenylphosphinic chloride is added (2 g, 11.46 mmol). The reaction continues to stir for 24 hours until complete. By TLC, the diastereomers do not separate. The product is purified by silica gel flash chromatography (5:95 ethanol:ethyl acetate) to give N-((R/S)-methylphenyl-phosphinyl)-N-(3-picolyl) D-leucine methyl ester as an oil. To this ester is added a solution of NH2OK (250 mL, 1.76M in methanol) prepared as described in Fieser and Fieser, Vol. 1, p. 478. The reaction is stirred for 16 hours at which time TLC indicates completion. The reaction mixture is neutralized with 1M aqueous HCl and the volatiles are removed. The product is purified by silica gel flash chromatography (10:90 ethanol:ethyl acetate) to give 8.6 g of N-hydroxy-2(R)-[[(R/S)-methylphenylphosphinyl]3-picolylamino]-4-methylpentanamide as a 60 (R)/40 (S) mixture of diastereomers: MS-IS m/z 376 [M+H]+, 398[M+Na]+. (R1 =3-pyridyl methyl, R2 =isobutyl, R3 =methyl, R4 =phenyl).

reactant | Methylphenylphosphinic chloride | 70 mmol, 12.23 g | CP(=O)(C1=CC=CC=C1)Cl | C7H8ClOP
reactant | N-(3-picolyl) D-leucine methyl ester | 65.6 mmol, 15.5 g | COC([C@H](NCC=1C=NC=CC1)CC(C)C)=O | C13H20N2O2
reactant | N-methyl morpholine | 175 mmol, 19.24 mL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-((R/S)-methylphenyl-phosphinyl)-N-(3-picolyl) D-leucine methyl ester | COC([C@H](N(CC=1C=NC=CC1)P(=O)(C1=CC=CC=C1)C)CC(C)C)=O | C20H27N2O3P
